US03991064
3,4-Dimethoxyphenylisocyanate.
A solution of 0.163 m of 4-aminoveratrole in 250 ml of chlorobenzene was treated with excess HCl gas resulting in a heavy precipitate. The mixture was refluxed and treated with a stream of phosgene for 1/2 hr (50 g, 0.49 m). After refluxing an additional 1/2 hr chlorobenzene was evaporated in vacuo. Distillation of the residue afforded 23 g (79%) b.p. 145°-150° C, 17-18 mm.

reactant | 4-aminoveratrole | NC=1C=C(C(=CC1)OC)OC | C8H11NO2
reactant | HCl | Cl | ClH
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | chlorobenzene | 250 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3,4-Dimethoxyphenylisocyanate | COC=1C=C(C=CC1OC)N=C=O | C9H9NO3
